US04321398
α, α-Dimethyl-β-(thienyl)ethanamine (IVa; R1, R2 =H)
A solution of 2,2-dimethyl-3-(2-thienyl)propanoic acid (Va; 11.2 g., 0.06 mole), diphenylphosphorylazide (16.7 g., 0.06 mole) (Aldrich Chemical Company), and triethylamine (6.14 g., 0.06 mole) in tert.-butanol (100 ml.) was heated at reflux for 5 hr. The solution was poured into water (300 ml.) and the crude material extracted with Et2O. The combined extracts were washed with brine, dried over MgSO4 and finally evaporated to get 11.9 g. of crude intermediate. This oil was added to a mixture of ethylene glycol (50 ml.), H2O (20 drops) and KOH (10 g.). The mixture was heated at reflux for 5 hr., cooled to 25°, diluted with H2O (300 ml.) and acidified to pH 1 with conc. HCl. A wash with Et2O removed the acid insoluble material which was discarded. The aqueous solution was made basic with 50% NaOH and the product was extracted with Et2O. The ether extracts were washed with brine, dried over a MgSO4 and evaporated to give 6.9 g. (74%) of product. the NMR spectrum is consistent with the assigned structure.

reactant | 2,2-dimethyl-3-(2-thienyl)propanoic acid | 0.06 mole, 11.2 g | CC(C(=O)O)(CC=1SC=CC1)C | C9H12O2S
reactant | diphenylphosphorylazide | 0.06 mole, 16.7 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.06 mole, 6.14 g | C(C)N(CC)CC | C6H15N
reactant | KOH | 10 g | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | tert.-butanol | 100 ml | C(C)(C)(C)O | C4H10O
catalyst | H2O | 20 drops | O | H2O
solvent | H2O | 300 ml | O | H2O
solvent | water | 300 ml | O | H2O
solvent | ethylene glycol | 50 ml | C(CO)O | C2H6O2
product | α, α-Dimethyl-β-(thienyl)ethanamine | CC(CC=1SC=CC1)(N)C | C8H13NS
